US07241810B2
Preparation 18: Methyl [3-(2-oxopropyl)phenyl]acetate
Tributyltin methoxide (28.3 mL, 98 mmol), the product of preparation 17 (15.0 g, 65 mmol), isopropenyl acetate (10.8 mL, 98 mmol), palladium(II)acetate (750 mg, 3.30 mmol) and tri-ortho-tolylphosphine (2.0 g, 6.5 mmol) were stirred together in toluene (75 mL) at 100° C. for 5 hours. After cooling, the reaction was diluted with ethyl acetate (150 mL) and 4M aqueous potassium fluoride solution (90 mL), and stirred for 15 minutes. The mixture was filtered through Arbocel® and the organic phase was separated and concentrated in vacuo. The residue was then purified by column chromatography on silica gel eluting with diethyl ether:pentane, 0:100 to 25:75, followed by dichloromethane to give the title compound as a pale yellow oil in 94% yield (12.6 g). 1H NMR (400 MHz, CDCl3): δ: 2.15 (3H, s), 3.61 (2H, s), 3.69 (5H, s), 7.10–7.13 (2H, m), 7.19 (1H, d), 7.30 (1H, t); LRMS ESI: m/z 229 [M+Na]+

reactant | Tributyltin methoxide | 98 mmol, 28.3 mL | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isopropenyl acetate | 98 mmol, 10.8 mL | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-ortho-tolylphosphine | 6.5 mmol, 2.0 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | potassium fluoride | 4M, 90 mL | [F-].[K+]
catalyst | palladium(II)acetate | 3.30 mmol, 750 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl [3-(2-oxopropyl)phenyl]acetate | 94% yield | O=C(CC=1C=C(C=CC1)CC(=O)OC)C | C12H14O3
